US04652658
2-Oxindole-1-Carboxamide
A mixture of 2-oxindole (5.86 g, 44.0 mmoles) in toluene (160 ml) was azeotroped for one hour to dry the toluene. Then, chlorosulfonyl isocyanate (7.47 g, 52.8 mmole) was added. Hydrogen chloride was immediately evolved. The mixture was stirred and refluxed for 15 minutes and then cooled to room temperature. Water (50 ml) was added to the cooled mixture (some HCl was initially evolved) and the mixture stirred for 1.5 hours. The solid which formed was collected by filtration and dried (4.10 g). The filtrate was extracted with ethyl acetate (100 ml), the resulting extract washed with brine (2×100 ml) and dried (MgSO4). Evaporation of the extract under reduced pressure gave 4.16 g of solid. The combined solids were recrystallized by dissolution in acetonitrile (200 ml) followed by concentration of the solution under reduced pressure to about 75 ml. The small amount of amorphous material which separated was filtered off, the filtrate decolorized and concentrated under reduced pressure to about 50 ml volume, then seeded. The dark red crystals which separated were filtered and dried (3.0 g; 38%). It was identical to the product of Example 1.

reactant | 2-oxindole | 44.0 mmoles, 5.86 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | chlorosulfonyl isocyanate | 52.8 mmole, 7.47 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Hydrogen chloride | Cl | ClH
reactant | Water | 50 ml | O | H2O
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Oxindole-1-Carboxamide | 4.16 g | N1(C(CC2=CC=CC=C12)=O)C(=O)N | C9H8N2O2
